US07914862B2
In a reactor under nitrogen atmosphere, 100 mL of dichloromethane and 20 mL of acetonitrile were added to 3.6 g of 5-[4-(4-ethoxy-2,3-difluorophenoxymethyl)cyclohexyl]2-propyltetrahydropyran-2-ol obtained in the thirteenth step, and the mixture was cooled to −20° C., to which 2.7 mL of triethylsilane was added dropwise, and subsequently 1.5 mL of boron trifluoride diethyl ether complex was added dropwise. The temperature of the reaction solution was increased to 0° C., to which 50 mL of iced water was added, followed by extracting three times with 30 mL of diethyl ether. The mixture including the organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography and recrystallization to provide 2.0 g of 5-[4-(4-ethoxy-2,3-difluorophenoxymethyl)cyclohexyl]2-propyltetrahydropyran.

reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
reactant | 5-[4-(4-ethoxy-2,3-difluorophenoxymethyl)cyclohexyl]2-propyltetrahydropyran-2-ol | 3.6 g | C(C)OC1=C(C(=C(OCC2CCC(CC2)C2CCC(OC2)(O)CCC)C=C1)F)F | C23H34F2O4
reactant | triethylsilane | 2.7 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | water | 50 mL | O | H2O
product | 5-[4-(4-ethoxy-2,3-difluorophenoxymethyl)cyclohexyl]2-propyltetrahydropyran | 2.0 g | C(C)OC1=C(C(=C(OCC2CCC(CC2)C2CCC(OC2)CCC)C=C1)F)F | C23H34F2O3
